US06800728B2
A 5 mg/mL solution of ovalbumin in PBS (100 mM phosphate, 150 mM NaCl, pH 7.4) and 2 mM EDTA (200 μL; 1 mg protein) is prepared. A solution of succinimidyl aminooxyacetate hydrochloride (SAAH)(2 mg) in DMF (50 μL) is prepared. To the protein solution is added the SAAH/DMF solution (15 eq.). The reaction mixture is incubated at room temperature for 4 hours. The modified protein is isolated and buffer exchanged by placing the reaction mixture in a 30K ultra-free centrifugation device and washing three times with 0.1 M MES, 0.9% NaCl, pH 4.7 (3×400 pL). The purified protein is quantified for protein concentration (BCA assay; Pierce Chemical Co., Rockford, Ill.).

reactant | phosphate | 100 mM | P(=O)([O-])([O-])[O-]
reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | EDTA | 2 mM, 200 μL, 1 mg | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | SAAH DMF | 15 eq. | Cl.NOCC(=O)ON1C(CCC1=O)=O.CN(C)C=O
solvent | DMF | 50 μL | CN(C)C=O | C3H7NO
product | succinimidyl aminooxyacetate hydrochloride | 2 mg | Cl.NOCC(=O)ON1C(CCC1=O)=O | InChI=1S/C6H8N2O5.ClH/c7-12-3-6(11)13-8-4(9)1-2-5(8)10;/h1-3,7H2;1H
